US04744818
Preparation of N-chloro-5-[2-chloro-4-(trifluoromethyl)phenoxy]-2-nitro-N-methanesulfonyl benzamide
5-[2-chloro-4-(trifluoromethyl)phenoxy]-2-nitro-N-methanesulfonyl benzamide, m.p. 215°-218° C. was chlorinated with "Clorox" (aqueous NaClO), following procedure I, to yield a product, m.p. 160°-161° (crystallizes from chloroform/ether).

reactant | 5-[2-chloro-4-(trifluoromethyl)phenoxy]-2-nitro-N-methanesulfonyl benzamide | ClC1=C(OC=2C=CC(=C(C(=O)NS(=O)(=O)C)C2)[N+](=O)[O-])C=CC(=C1)C(F)(F)F | C15H10ClF3N2O6S
reactant | NaClO | [O-]Cl.[Na+]
product | N-chloro-5-[2-chloro-4-(trifluoromethyl)phenoxy]-2-nitro-N-methanesulfonyl benzamide | ClN(C(C1=C(C=CC(=C1)OC1=C(C=C(C=C1)C(F)(F)F)Cl)[N+](=O)[O-])=O)S(=O)(=O)C | C15H9Cl2F3N2O6S
